US06114325
[2-[[N-[3-(1-Imidazolyl)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 17)
4N Hydrochloric acid--ethyl acetate solution (0.10 ml) was added to a solution of [2-[[N-[3-(1-imidazolyl)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.200 g) in ethanol (2 ml) at room temperature. After being stirred for 20 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.201 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | ethyl acetate | 0.10 ml | C(C)(=O)OCC | C4H8O2
reactant | [2-[[N-[3-(1-imidazolyl)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.200 g | N1(C=NC=C1)CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | C33H54N4O3
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | [2-[[N-[3-(1-Imidazolyl)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.201 g | Cl.N1(C=NC=C1)CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C33H54N4O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-26-37(30-38)32-22-18-17-21-31(32)28-40-33(39)35-23-20-25-36-27-24-34-29-36;/h17-18,21-22,24,27,29-30H,2-16,19-20,23,25-26,28H2,1H3,(H,35,39);1H
